US06693123B2
To a solution in DMF (10 mL) of 4-hydroxymethyl-2-phenoxybenzoic acid methyl ester (2.82 g), prepared as in Example 157C, was added LiBr (1.04 g) and PBr3 (3.65 g) and the reaction mixture was stirred for 20 minutes at ambient temperature. The reaction mixture was poured into water and extracted with toluene. The organic phase was washed twice with water, dried over Na2SO4, filtered, and concentrated in vacuo to give 4-bromomethyl-2-phenoxybenzoic acid methyl ester (3.37 g).

reactant | 4-hydroxymethyl-2-phenoxybenzoic acid methyl ester | 2.82 g | COC(C1=C(C=C(C=C1)CO)OC1=CC=CC=C1)=O | C15H14O4
reactant | LiBr | 1.04 g | [Li+].[Br-]
reactant | PBr3 | 3.65 g | P(Br)(Br)Br | Br3P
reactant | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-bromomethyl-2-phenoxybenzoic acid methyl ester | 3.37 g | COC(C1=C(C=C(C=C1)CBr)OC1=CC=CC=C1)=O | C15H13BrO3
